US07678798B2
4,6-Dimethyl-5-[(4-methyl-4-{(3S)-3-methyl-4-[6-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazin-1-yl}piperidin-1-yl)carbonyl]pyrimidine
To a solution of (2S)-2-methyl-4-(4-methylpiperidin-4-yl)-1-[6-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazine trihydrochloride (100 mg, 0.183 mmol), 4,6-dimethylpyrimidine-5-carboxylic acid (67 mg, 0.22 mmol) in DMF (5 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (97 mg, 0.22 mmol) followed by triethylamine (90 mg, 0.9 mmol). After being stirred at room temperature overnight, a solution of NaHCO3 in water was added. The resulting solution was extracted with EtOAc twice. The combined EtOAc layers were washed with brine, dried over MgSO4 and concentrated. Column chromatography on silica (10-20% MeOH in EtOAc) afforded the title compound (60 mg) as an oil. MS calculated for C28H36F3N5O: (M+H)+ 516; found 516.2.

reactant | (2S)-2-methyl-4-(4-methylpiperidin-4-yl)-1-[6-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazine trihydrochloride | 0.183 mmol, 100 mg | Cl.Cl.Cl.C[C@@H]1N(CCN(C1)C1(CCNCC1)C)C1CCC2=CC=C(C=C12)C(F)(F)F
reactant | 4,6-dimethylpyrimidine-5-carboxylic acid | 0.22 mmol, 67 mg | CC1=NC=NC(=C1C(=O)O)C | C7H8N2O2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.22 mmol, 97 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.9 mmol, 90 mg | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4,6-Dimethyl-5-[(4-methyl-4-{(3S)-3-methyl-4-[6-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazin-1-yl}piperidin-1-yl)carbonyl]pyrimidine | 60 mg | CC1=NC=NC(=C1C(=O)N1CCC(CC1)(N1C[C@@H](N(CC1)C1CCC2=CC=C(C=C12)C(F)(F)F)C)C)C | C28H36F3N5O
